US04202899
8.6 g of 5-chloro-8-ethyl-2-methyl-8H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidine (0.03 mol) and 7.2 g of diethylamine are suspended in 50 ml of butyl alcohol and heated with stirring in an autoclave for 10 hours at 150°. After this time, the solvent is removed, the residue is treated with water and filtered off. Recrystallization from alcohol yields 8 g (83%) of N,N,8-triethyl-2-methyl-8H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidin-5-amine; m.p. 106°-108°.

reactant | 5-chloro-8-ethyl-2-methyl-8H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidine | 0.03 mol, 8.6 g | ClC1=NC=2N(C3=C1C=NC1=C3C=NN1CC)N=C(C2)C | C13H11ClN6
reactant | diethylamine | 7.2 g | C(C)NCC | C4H11N
solvent | butyl alcohol | 50 ml | C(CCC)O | C4H10O
product | N,N,8-triethyl-2-methyl-8H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidin-5-amine | 8 g, 83% | C(C)N(C1=NC=2N(C3=C1C=NC1=C3C=NN1CC)N=C(C2)C)CC | C17H21N7
